US07563903B2
7.5 (2S)-2-{[(2S)-2-hydroxy-3,3-dimethylbutanoyl]amino}-N-(5-{2-[(4-pyridinyloxy)methyl]phenyl}-1,3-thiazol-2-yl)pentanamide
Compounds No. 61 ((2S)-N-(5-{2-[(3-cyano-phenoxy)methyl]phenyl}-1,3-thiazol-2-yl)-2-{[(2S)-2-hydroxy-3,3-dimethylbutanoyl]amino}pentanamide) and No. 69 ((2S)—N-(5-{2-[(2-cyanophenoxy)methyl]phenyl}-1,3-thiazol-2-yl)-2-{[(2S)-2-hydroxy-3,3-dimethyl-butanoyl]amino}pentanamide) may be prepared according to the method described in Example 7, replacing 4-hydroxypyridine with 3-cyanophenol or 2-cyanophenol, respectively.

reactant | (2S)-N-(5-{2-[(3-cyano-phenoxy)methyl]phenyl}-1,3-thiazol-2-yl)-2-{[(2S)-2-hydroxy-3,3-dimethylbutanoyl]amino}pentanamide | C(#N)C=1C=C(OCC2=C(C=CC=C2)C2=CN=C(S2)NC([C@H](CCC)NC([C@H](C(C)(C)C)O)=O)=O)C=CC1 | C28H32N4O4S
reactant | (2S)—N-(5-{2-[(2-cyanophenoxy)methyl]phenyl}-1,3-thiazol-2-yl)-2-{[(2S)-2-hydroxy-3,3-dimethyl-butanoyl]amino}pentanamide | C(#N)C1=C(OCC2=C(C=CC=C2)C2=CN=C(S2)NC([C@H](CCC)NC([C@H](C(C)(C)C)O)=O)=O)C=CC=C1 | C28H32N4O4S
reactant | 3-cyanophenol | C(#N)C=1C=C(C=CC1)O | C7H5NO
reactant | 2-cyanophenol | C(#N)C1=C(C=CC=C1)O | C7H5NO
product | (2S)-2-{[(2S)-2-hydroxy-3,3-dimethylbutanoyl]amino}-N-(5-{2-[(4-pyridinyloxy)methyl]phenyl}-1,3-thiazol-2-yl)pentanamide | O[C@H](C(=O)N[C@H](C(=O)NC=1SC(=CN1)C1=C(C=CC=C1)COC1=CC=NC=C1)CCC)C(C)(C)C | C26H32N4O4S
